US08076488B2
To a mixture of dimethylhydroxylamine HCl (510 mg, 5.18 mmol) and triethylamine (2.16 mL, 15.5 mmol) in anhydrous THF (9.41 mL) and acetonitrile (2.35 mL) was added 4-chloropyridine-2-carbonyl chloride hydrochloride (1.00 g, 4.71 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 2 h then at RT for 16 h. The solvent was removed under reduced pressure and partitioned between EtOAc and water. The organic layer was washed with H2O and brine, dried over Na2SO4, and concentrated under reduced pressure. The crude product was purified by MPLC (biotage) eluted with 30% EtOAc/Hex to afford 925 mg (98%) of 4-chloro-N-methoxy-N-methylpyridine-2-carboxamide as an orange oil: TLC (50% EtOAc/Hex), Rf=0.31.

reactant | dimethylhydroxylamine HCl | 5.18 mmol, 510 mg | Cl.CN(O)C
reactant | triethylamine | 15.5 mmol, 2.16 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloropyridine-2-carbonyl chloride hydrochloride | 4.71 mmol, 1.00 g | Cl.ClC1=CC(=NC=C1)C(=O)Cl
solvent | THF | 9.41 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 2.35 mL | C(C)#N | C2H3N
product | 4-chloro-N-methoxy-N-methylpyridine-2-carboxamide | 925 mg, 98% | ClC1=CC(=NC=C1)C(=O)N(C)OC | C8H9ClN2O2
